US05428045
A mixture of 1-benzoylacetone (24.00 g, 0.15 mole) and dimethylformamide dimethylacetal were stirred overnight at room temperature under argon. The resulting reddish-colored mixture was concentrated on the rotary evaporator, then dissolved in THF (tetrahydrofuran). The resulting solution was stirred and heated to boiling and slowly diluted with hexane. At the point of turbidity heating was discontinued. An orange gum precipitated and rapidly solidified. The mixture was chilled in an ice bath and filtered yielding 25.25 g (78%) of 2-(dimethyl-amino)-1-phenyl-1,3-butanediene m.pt. 72°-74° C.

reactant | 1-benzoylacetone | 0.15 mole, 24.00 g | C(C1=CC=CC=C1)(=O)CC(=O)C | C10H10O2
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-(dimethyl-amino)-1-phenyl-1,3-butanediene | 25.25 g, 78% | CN(C(=CC1=CC=CC=C1)C=C)C | C12H15N
